US06759422B2
2-amino-4,5-dichlorobenzothiazole (Compound 1).
To a solution of 2,3-dichloroaniline (1.0 g; 6.17 mmol) in glacial acetic acid (30 ml) was added potassium thiocyanate (3.6 g; 37 mmol) and the mixture was stirred at ambient temperature until a clear solution had formed. Bromine (0.48 ml; 9.26 mmol) was added dropwise and the reaction mixture was stirred at ambient temperature for five hours. The solvent was removed under reduced pressure and the residue was diluted with water and rendered alkaline by addition of aqueous sodium hydroxide (6M). The product was filtered off, washed with water and dried to yield the desired product quantitatively.

reactant | 2,3-dichloroaniline | 6.17 mmol, 1.0 g | ClC1=C(N)C=CC=C1Cl | C6H5Cl2N
reactant | potassium thiocyanate | 37 mmol, 3.6 g | [S-]C#N.[K+]
reactant | Bromine | 9.26 mmol, 0.48 ml | BrBr | Br2
solvent | acetic acid | 30 ml | C(C)(=O)O | C2H4O2
product | 2-amino-4,5-dichlorobenzothiazole | NC=1SC2=C(N1)C(=C(C=C2)Cl)Cl | C7H4Cl2N2S
